### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2026-08-18

### PR DESCRIPTION
**Pull request by kim-em**
This PR merges `nightly-testing` at 3c8d6ef8a4519d2efdde991d941cae97169b8234 into `bump/v4.35.0`, moving the toolchain to `nightly-2026-08-18` and carrying across the accumulated adaptations since `nightly-2026-08-14`.

Conflicts resolved while merging `master` into `bump/v4.35.0`:

* `Mathlib/Analysis/Seminorm.lean` is now a deprecated shim, so the `+typeChanged` marker on `Seminorm.smul_le_smul` moves to `Mathlib/Analysis/Normed/Module/Seminorm/Basic.lean`.
* `subset_image_diff` no longer names an explicit replacement, so the alias and its target agree and `+typeChanged` is no longer needed.
* `MathlibTest/ClickSuggestions/TestImpl.lean` takes `master`'s spelling `info.ref.atomically get`; `nightly-testing` had written the same adaptation as `info.ref.atomically <| get`.

Also drops the `MonoCoprod Scheme` adaptation note in `Mathlib/AlgebraicGeometry/Limits.lean`, whose `(X := X)` pin is no longer needed; this matches the equivalent cleanup already on `nightly-testing`.

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/Algebra/Category/Grp/Colimits.lean [hunk 1]
```diff
@@ -291,6 +291,13 @@ namespace AddCommGrpCat
 
 open QuotientAddGroup
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Category/Grp/Colimits.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Monoidal.lean [hunk 2]
```diff
@@ -40,6 +40,37 @@ namespace Monoidal
 
 variable (M₁ M₂ M₃ M₄ : PresheafOfModules.{u} (R ⋙ forget₂ _ _))
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Monoidal.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Pushforward.lean [hunk 3]
```diff
@@ -108,6 +108,38 @@ lemma pushforward_obj_map_apply (M : PresheafOfModules.{v} R) {X Y : Cᵒᵖ} (f
     (m : (ModuleCat.restrictScalars (φ.app X).hom).obj (M.obj (Opposite.op (F.obj X.unop)))) :
       (((pushforward φ).obj M).map f).hom m = M.map (F.map f.unop).op m := rfl
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Pushforward.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Pushforward.lean [hunk 4]
```diff
@@ -122,6 +154,27 @@ lemma pushforward_map_app_apply {M N : PresheafOfModules.{v} R} (α : M ⟶ N) (
     (m : (ModuleCat.restrictScalars (φ.app X).hom).obj (M.obj (Opposite.op (F.obj X.unop)))) :
     (((pushforward φ).map α).app X).hom m = α.app (Opposite.op (F.obj X.unop)) m := rfl
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Pushforward.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean [hunk 5]
```diff
@@ -338,6 +338,43 @@ noncomputable def toSheafify : M₀ ⟶ (restrictScalars α).obj (sheafify α φ
 lemma toSheafify_app_apply (X : Cᵒᵖ) (x : M₀.obj X) :
     ((toSheafify α φ).app X).hom x = φ.app X x := rfl
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplexShift.lean [hunk 6]
```diff
@@ -291,6 +291,39 @@ lemma rightShift_smul (a n' : ℤ) (hn' : n' + a = n) (x : R) :
   dsimp
   simp only [rightShift_v _ a n' hn' p q hpq _ rfl, smul_v, Linear.smul_comp]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplexShift.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Module/Equiv/Defs.lean [hunk 7]
```diff
@@ -584,7 +584,27 @@ def _root_.RingEquiv.toSemilinearEquiv (f : R ≃+* S) :
     toFun := f
     map_smul' := f.map_mul }
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Module/Equiv/Defs.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 8]
```diff
@@ -65,6 +65,31 @@ public lemma index_of_surjective (hf : Surjective f) :
   rw [index_eq_finrank_sub, range_eq_top.mpr hf]
   simp [finrank_eq_zero_of_subsingleton]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Algebra/Module/Presentation/Differentials.lean [hunk 9]
```diff
@@ -84,6 +84,30 @@ lemma hom₁_single (r : σ) :
     hom₁ pres (Finsupp.single r 1) = Extension.Cotangent.mk ⟨pres.relation r, by simp⟩ := by
   simp [hom₁]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Algebra/Module/Presentation/Differentials.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/CategoryTheory/SmallObject/IsCardinalForSmallObjectArgument.lean [hunk 10]
```diff
@@ -155,6 +155,31 @@ isomorphisms on the right side. -/
 def propArrow : MorphismProperty (Arrow C) := fun _ _ f ↦
   (coproducts.{w} I).pushouts f.left ∧ (isomorphisms C) f.right
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/SmallObject/IsCardinalForSmallObjectArgument.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Condensed/TopCatAdjunction.lean [hunk 11]
```diff
@@ -91,7 +91,40 @@ noncomputable def topCatAdjunctionCounit (X : TopCat.{u + 1}) : X.toCondensedSet
       rw [continuous_coinduced_dom]
       continuity }
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Condensed/TopCatAdjunction.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 12]
```diff
@@ -493,6 +493,12 @@ theorem writtenInExtChartAt_comp (h : ContinuousWithinAt f s x) :
 variable {f' f₀' f₁' : TangentSpace% x →L[𝕜] TangentSpace% (f x)}
   {g' : TangentSpace% (f x) →L[𝕜] TangentSpace% (g (f x))}
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 13]
```diff
@@ -516,11 +522,23 @@ theorem mfderivWithin_univ : mfderiv[univ] f = mfderiv% f := by
   simp only [mfderivWithin, mfderiv, mfld_simps]
   rw [mdifferentiableWithinAt_univ]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 14]
```diff
@@ -516,11 +522,23 @@ theorem mfderivWithin_univ : mfderiv[univ] f = mfderiv% f := by
...
+After that, `instanceSearchTypes false` can be removed, too.
+-/
+set_option backward.isDefEq.respectTransparency.instanceSearchTypes false in
 set_option backward.isDefEq.respectTransparency false in
 theorem mfderivWithin_zero_of_not_mdifferentiableWithinAt (h : ¬MDiffAt[s] f x) :
     mfderiv[s] f x = 0 := by
   simp only [mfderivWithin, h, ite_eq_right, not_false_iff]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 15]
```diff
@@ -585,13 +603,25 @@ theorem hasMFDerivAt_unique (h₀ : HasMFDerivAt% f x f₀') (h₁ : HasMFDerivA
   rw [← hasMFDerivWithinAt_univ] at h₀ h₁
   exact (uniqueMDiffWithinAt_univ I).eq h₀ h₁
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 16]
```diff
@@ -585,13 +603,25 @@ theorem hasMFDerivAt_unique (h₀ : HasMFDerivAt% f x f₀') (h₁ : HasMFDerivA
...
+set_option backward.isDefEq.respectTransparency.instanceSearchTypes false in
 set_option backward.isDefEq.respectTransparency false in
 theorem hasMFDerivWithinAt_inter' (h : t ∈ 𝓝[s] x) :
     HasMFDerivAt[s ∩ t] f x f' ↔ HasMFDerivAt[s] f x f' := by
   rw [HasMFDerivWithinAt, HasMFDerivWithinAt, extChartAt_preimage_inter_eq,
     hasFDerivWithinAt_inter', continuousWithinAt_inter' h]
   exact extChartAt_preimage_mem_nhdsWithin h
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/VectorField/LieBracket.lean [hunk 17]
```diff
@@ -99,6 +99,37 @@ lemma mlieBracketWithin_eq_lieBracketWithin {V W : Π (x : E), TangentSpace 𝓘
 @[simp] lemma mlieBracketWithin_univ :
     mlieBracketWithin I V W univ = mlieBracket I V W := (rfl)
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/VectorField/LieBracket.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/VectorField/LieBracket.lean [hunk 18]
```diff
@@ -131,6 +162,23 @@ lemma mlieBracket_swap_apply : mlieBracket I V W x = - mlieBracket I W V x :=
 lemma mlieBracket_swap : mlieBracket I V W = - mlieBracket I W V :=
   mlieBracketWithin_swap
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/VectorField/LieBracket.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/Geometry/Manifold/VectorField/LieBracket.lean [hunk 19]
```diff
@@ -331,6 +379,44 @@ private lemma mfderiv_extChart_inverse_comp_aux :
       ((mfderiv[range I] φ.symm (φ x)).inverse) (W (φ.symm (φ x))) = W x := by
   rw [mfderiv_extChartAt_inverse_comp_mfderivWithin_extChartAT_symm, extChartAt_to_inv]
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/Geometry/Manifold/VectorField/LieBracket.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean [hunk 20]
```diff
@@ -47,6 +47,45 @@ noncomputable def equivPiTensorComplSingletonTensor (i₀ : ι) :
 
 variable (i₀ : ι)
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/PiTensorProduct/Generators.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/ModelTheory/Types.lean [hunk 21]
```diff
@@ -237,6 +237,33 @@ def realizedTypes (α : Type w) : Set (T.CompleteType α) :=
 
 section
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/ModelTheory/Types.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 22]
```diff
@@ -36,7 +36,41 @@ variable {p : ℕ} [Fact p.Prime]
 
 open WithZero UniformSpace
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RepresentationTheory/Intertwining.lean [hunk 23]
```diff
@@ -486,6 +486,35 @@ instance : Module A (IntertwiningMap ρ σ) :=
   fast_instance%
   Function.Injective.module A (coeFnAddMonoidHom ρ σ) DFunLike.coe_injective (coe_smul ρ σ)
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RepresentationTheory/Intertwining.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RingTheory/Extension/Cotangent/Basis.lean [hunk 24]
```diff
@@ -236,7 +236,33 @@ set_option backward.isDefEq.respectTransparency false in
 def basisRight : Module.Basis Unit S D.presRight.toExtension.Cotangent :=
   Generators.basisCotangentAway S D.gbar
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RingTheory/Extension/Cotangent/Basis.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RingTheory/Extension/Cotangent/Basis.lean [hunk 25]
```diff
@@ -247,7 +273,28 @@ lemma basis_inl [Nontrivial S] :
       D.cotangentEquivProd.symm (Generators.cMulXSubOneCotangent S D.gbar, 0) := by
   simpa [basis] using! Generators.basisCotangentAway_apply _ _
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RingTheory/Extension/Cotangent/Basis.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RingTheory/Extension/Cotangent/Basis.lean [hunk 26]
```diff
@@ -273,6 +320,29 @@ end PresentationOfFreeCotangent.Aux
 
 end
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RingTheory/Extension/Cotangent/Basis.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RingTheory/Kaehler/Basic.lean [hunk 27]
```diff
@@ -192,6 +192,37 @@ theorem KaehlerDifferential.DLinearMap_apply (s : S) :
       (KaehlerDifferential.ideal R S).toCotangent
         ⟨1 ⊗ₜ s - s ⊗ₜ 1, KaehlerDifferential.one_smul_sub_smul_one_mem_ideal R s⟩ := rfl
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RingTheory/Kaehler/Basic.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

File: Mathlib/RingTheory/Regular/RegularSequence.lean [hunk 28]
```diff
@@ -571,7 +571,38 @@ lemma map_first_exact_on_four_term_right_exact_of_isSMulRegular_last
 
 section Perm
 
+#adaptation_note
+/--
```
Comment (faenuccio) [inline Mathlib/RingTheory/Regular/RegularSequence.lean]:
```suggestion
/--
from [PR 288](https://github.com/leanprover-community/mathlib4-nightly-testing/pull/288)

```

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
